US07074800B1
Using an analogous procedure to that described in Example 297, (2S)-4-(indol-5-yloxy)-6-methoxy-7-(oxiran-2-ylmethoxy)quinazoline (100 mg, 0.28 mmol), (prepared as described for the starting material in Example 297), was reacted with piperidine (70 mg, 0.83 mmol), to give (2S)-7-(2-hydroxy-3-piperidinopropoxy)-4-(indol-5-yloxy)-6-methoxyquinazoline (93 mg, 73%).

reactant | (2S)-4-(indol-5-yloxy)-6-methoxy-7-(oxiran-2-ylmethoxy)quinazoline | 0.28 mmol, 100 mg | N1C=CC2=CC(=CC=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@H]1OC1 | C20H17N3O4
reactant | piperidine | 0.83 mmol, 70 mg | N1CCCCC1 | C5H11N
product | (2S)-7-(2-hydroxy-3-piperidinopropoxy)-4-(indol-5-yloxy)-6-methoxyquinazoline | 93 mg, 73% | O[C@H](COC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=CNC2=CC1)OC)CN1CCCCC1 | C25H28N4O4
